US09447086B2
Preparation of 3-methylmorpholine-3-carboxylic acid (Compound AD)
To a solution of 3-methyl-4-[(2-methylpropan-2-yl)oxycarbonyl]morpholine-3-carboxylic acid (Accela ChemBio Co., Ltd., CAS: 1052680-53-1, 50 mg, 0.2.0 mmol) in DCM (1 ml) was added trifluoroacetic acid (1 mL) dropwise at room temperature. The resulting mixture was stirred at room temperature for one hour and then concentrated under the vacuum. The residue was used directly in next step without further purification,

reactant | 3-methyl-4-[(2-methylpropan-2-yl)oxycarbonyl]morpholine-3-carboxylic acid | 50 mg | CC1(N(CCOC1)C(=O)OC(C)(C)C)C(=O)O | C11H19NO5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 3-methylmorpholine-3-carboxylic acid | CC1(NCCOC1)C(=O)O | C6H11NO3
